US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-fluorophenyl)urea dihydrochloride monohydrate
The procedure described in Example 3 was followed, using 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride (3.77 g; 10 mmole), methylene chloride (50 ml), tetrahydrofuran (10 ml), triethylamine (4.2 ml; 30 mmole) and 4-fluorophenyl isocyanate (1.37 g; 10 mmole). Recrystallization from methanol/methylene chloride provided the title compound (3.75 g; 76% yield) as colorless crystals, m.p. 225°-228° C.

reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride | 10 mmole, 3.77 g | Cl.Cl.Cl.NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 30 mmole, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenyl isocyanate | 10 mmole, 1.37 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-fluorophenyl)urea dihydrochloride monohydrate | 3.75 g, 76% yield | O.Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)F)C=C1 | InChI=1S/C21H26ClFN4O.2ClH.H2O/c22-18-4-2-17(3-5-18)16-27-14-12-26(13-15-27)11-1-10-24-21(28)25-20-8-6-19(23)7-9-20;;;/h2-9H,1,10-16H2,(H2,24,25,28);2*1H;1H2
